US05093328
To a solution of (2R,4R)-1-benzyloxycarbonyl-2-cyanomethyl-4-hydroxypyrrolidine (5.94 g) in ethanol (60 ml), 10% palladium-carbon (600 mg) was added, and the resultant mixture was stirred at room temperature for 1.5 hours under an atmospheric pressure of hydrogen, followed by filtration. The filtrate was combined with 10% palladiumcarbon (600 mg) and stirred under the same condition as above. This operation was repeated three times. After removal of the catalyst by filtration, the solvent was removed by distillation to give (2R,4R)-2-cyanomethyl-4-hydroxypyrrolidine.

reactant | (2R,4R)-1-benzyloxycarbonyl-2-cyanomethyl-4-hydroxypyrrolidine | 5.94 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O)CC#N | C14H16N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 600 mg | [C].[Pd]
product | (2R,4R)-2-cyanomethyl-4-hydroxypyrrolidine | C(#N)C[C@H]1NC[C@@H](C1)O | C6H10N2O
